US05243043
Using the procedure of Step A of Example 8, 27.2 g of 7-amino-cephalosporanic acid, 128 ml of the etherate of boron trifluoride, 126 ml of benzyl alcohol and 90 ml of triethylamine were reacted to obtain 27.1 g of raw product. 25 g of the said product and 250 ml of acetic acid were added to 25 ml of the etherate of boron trifluoride followed by the addition of 25 ml of triethylamine which caused precipitation. The mixture was vacuum filtered and the product was rinsed with acetic acid, acetone and then ether to obtain 4.6 of product. 4.8 g of the said product were dissolved at 45° C. in 20 ml of 2N hydrochloric acid and 8 ml of concentrated hydrochloric acid and the solution was treated with activated carbon. 6 ml of ammonium hydroxide were added to the mixture which was then vacuum filtered. The product was rinsed with water, acetone and then ether to obtain 2 g of 3-benzyloxy-7-amino-ceph-3-eme-4-carboxylic acid.

reactant | 7-amino-cephalosporanic acid | 27.2 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | boron trifluoride | B(F)(F)F | BF3
reactant | benzyl alcohol | 126 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | ammonium hydroxide | 6 ml | [OH-].[NH4+]
solvent | hydrochloric acid | 2N, 20 ml | Cl | ClH
solvent | hydrochloric acid | 8 ml | Cl | ClH
solvent | triethylamine | 25 ml | C(C)N(CC)CC | C6H15N
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
solvent | triethylamine | 90 ml | C(C)N(CC)CC | C6H15N
product | 3-benzyloxy-7-amino-ceph-3-eme-4-carboxylic acid | 2 g | C(C1=CC=CC=C1)OC=1CS[C@H]2N(C1C(=O)O)C(C2N)=O | C14H14N2O4S
